US04179505
A solution of 5 parts of 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N-methyl-2-nitrobenzenamine in 80 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated, yielding 4.64 parts of 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -methyl-1,2-benzenediamine as a residue.

reactant | 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N-methyl-2-nitrobenzenamine | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC(=C(C=C1)NC)[N+](=O)[O-])C1=CC=CC=C1 | C25H28N4O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -methyl-1,2-benzenediamine | C1(=CC=CC=C1)C(N1CCN(CC1)CC=1C=C(C(=CC1)NC)N)C1=CC=CC=C1 | C25H30N4
